US05652239
6-Chloropyridazino[4,5-b]indole-1,4-dione
To a stirred solution of diethyl 7-chloroindole-2,3-dicarboxylate (0.6 g, 2.0 mM) in ethanol (4 mL) was added hydrazine hydrate (2 mL, 40 mM). The resulting solution was heated to reflux for 3 hrs during which time a white precipitate formed. The solid was filtered, suspended in acetic acid (2 mL), and warmed to reflux for several minutes. The mixture was then cooled to room temperature and the solid filtered and dried. This provided the titled compound as a white solid (0.11 g, 23%), mp >250° C. NMR (d6 -DMSO): 12.92 (s, 1H), 11.66 (s, 2H), 8.08 (d, J=8 Hz, 1H), 7.56 (d, J=8 Hz), 7.32 (t, J=8 Hz). MS(CI): 236(M+1).

reactant | diethyl 7-chloroindole-2,3-dicarboxylate | 2.0 mM, 0.6 g | ClC=1C=CC=C2C(=C(NC12)C(=O)OCC)C(=O)OCC | C14H14ClNO4
reactant | hydrazine hydrate | 40 mM, 2 mL | O.NN
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 6-Chloropyridazino[4,5-b]indole-1,4-dione | 0.11 g, 23% | ClC1=CC=CC=2C3=C(NC12)C(N=NC3=O)=O | C10H4ClN3O2
